US07820665B2
Step 5. N-(6-(6-chloro-5-(4-fluorophenylsulfonamido)pyridin-3-yl)-3-(pyridin-4-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide
A sealable vial was charged with N-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-fluorobenzenesulfonamide (81 mg, 196 μmol), N-(6-chloro-3-(pyridin-4-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide-TFA salt (47.0 mg, 163 μmol), sodium carbonate (69 mg, 653 μmol) and dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium(II) (9.1 mg, 16 μmol). The vial was sealed with a septum cap and 1,4-dioxane (2 mL) and water (0.2 mL) were added under positive N2 flow. The mixture was sparged for 10 min with N2 and heated at 90° C. for 18 h. The solution was cooled to rt and concentrated for purification by MPLC (CombiFlash® Companion®, Teledyne Isco, Lincoln, Nebr.). The residue was taken up in minimal CH2Cl2/MeOH and absorbed onto a 25 g silica loading cartridge and passed through a Redi-Sep® pre-packed silica gel column (80 g) (Teledyne Isco, Lincoln, Nebr.) using a gradient of 1% MeOH in CH2Cl2 to 10% MeOH in CH2Cl2 to afford the title compound, N-(6-(6-chloro-5-(4-fluorophenylsulfonamido)pyridin-3-yl)-3-(pyridin-4-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide (23 mg, 26% yield) as a yellow solid. LCMS (ESI positive ionization) m/z: 538.0 (M+1); 1H NMR (400 MHz, MeOH-d6) δ ppm 2.27 (s, 3H) 7.95-8.07 (m, 2H) 8.21 (dd, J=61.57, 9.54 Hz, 2H) 8.63-8.71 (m, 3H) 8.76-8.81 (m, 2H) 8.82-8.86 (m, 2H) 8.87-8.92 (m, 2H).

reactant | N-(2-chloro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)-4-fluorobenzenesulfonamide | 196 μmol, 81 mg | ClC1=NC=C(C=C1NS(=O)(=O)C1=CC=C(C=C1)F)B1OC(C(O1)(C)C)(C)C | C17H19BClFN2O4S
reactant | N-(6-chloro-3-(pyridin-4-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide-TFA salt | 163 μmol, 47.0 mg | OC(=O)C(F)(F)F.ClC=1C=CC=2N(N1)C(=C(N2)NC(C)=O)C2=CC=NC=C2
reactant | sodium carbonate | 653 μmol, 69 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro 1,1′-bis(diphenylphosphino)ferrocene palladium(II) | 16 μmol, 9.1 mg | [Pd+2].ClC1=C([C-](C=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)Cl.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | water | 0.2 mL | O | H2O
product | N-(6-(6-chloro-5-(4-fluorophenylsulfonamido)pyridin-3-yl)-3-(pyridin-4-yl)imidazo[1,2-b]pyridazin-2-yl)acetamide | 23 mg, 26% yield | ClC1=C(C=C(C=N1)C=1C=CC=2N(N1)C(=C(N2)NC(C)=O)C2=CC=NC=C2)NS(=O)(=O)C2=CC=C(C=C2)F | C24H17ClFN7O3S
